US08809333B2
To a solution of (2R)-4-{4-[(3-cyanophenyl)ethynyl]-1H-pyrazol-1-yl}-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (0.209 g, 0.444 mmol) in EtOH (40 mL) was added 1M HCl (20 mL). The reaction was allowed to stir at room temperature overnight. The reaction mixture was concentrated, taken back up in MeOH, and concentrated again to give (2R)-4-{4-[(3-cyanophenyl)ethynyl]-1H-pyrazol-1-yl}-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide (160 mg, 93% yield) as a white solid.

reactant | (2R)-4-{4-[(3-cyanophenyl)ethynyl]-1H-pyrazol-1-yl}-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.444 mmol, 0.209 g | C(#N)C=1C=C(C=CC1)C#CC=1C=NN(C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C | C23H26N4O5S
reactant | HCl | 1M, 20 mL | Cl | ClH
solvent | EtOH | 40 mL | CCO | C2H6O
product | (2R)-4-{4-[(3-cyanophenyl)ethynyl]-1H-pyrazol-1-yl}-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide | 160 mg, 93% yield | C(#N)C=1C=C(C=CC1)C#CC=1C=NN(C1)CC[C@](C(=O)NO)(S(=O)(=O)C)C | C18H18N4O4S
